US05705516
Potassium thioacetate (1.98 g), 4-bromo-1,1-difluorobut-1-ene (3.0 g) and tetra-n-butylammonium bromide (0.3 g, catalyst) were stirred at the ambient temperature under nitrogen for 5 hours and stored for 18 hours. The mixture was distilled using a Kugelrohr apparatus to give 4,4-difluorobut-3-enyl thioacetate as a colourless liquid (1.12 g); 1H NMR δ 2.25(2H,m); 2.30(3H,s); 2.90(2H,t); 4.20(1H,m); (bp 115° C. at 120 mmHg).

reactant | Potassium thioacetate | 1.98 g | C(C)(=S)[O-].[K+]
reactant | 4-bromo-1,1-difluorobut-1-ene | 3.0 g | BrCCC=C(F)F | C4H5BrF2
catalyst | tetra-n-butylammonium bromide | 0.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4,4-difluorobut-3-enyl thioacetate | 1.12 g | C(C)(=S)OCCC=C(F)F | C6H8F2OS
